US05192758
Preparation of N-t-butyldimethylsilyloxyethyl imidazole
To 86.4 mg (2.2 mmoles) of 61.1% sodium hydride mineral oil dispersion in 5 mL sieve dried DMF at 0° C. was added 136 mg (2.0 mmoles) of imidazole. The mixture was stirred at 0° C. under nitrogen for 15 minutes and 476 mg (2.0 mmoles) of neat t-butyldimethylsilyloxyethyl bromide was added. The ice-water bath was removed and the mixture stirred overnight and it was then partitioned between ether and ice-water. The organic phase was separated, washed thrice with ice-water, dried over sodium sulfate, filtered, and evaporated to give 282.3 mg (63%) of the title compound.

reactant | sodium hydride | 2.2 mmoles, 86.4 mg | [H-].[Na+]
reactant | imidazole | 2.0 mmoles, 136 mg | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyloxyethyl bromide | 2.0 mmoles, 476 mg | [Si](C)(C)(C(C)(C)C)OCCBr | C8H19BrOSi
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-t-butyldimethylsilyloxyethyl imidazole | 282.3 mg, 63% | [Si](C)(C)(C(C)(C)C)OCCN1C=NC=C1 | C11H22N2OSi
